US09302989B2
N2-{4-[(cyclopentylacetyl)amino]phenyl}-N5-(2-hydroxyethyl)-1,3-dihydro-2H-isoindole-2,5-dicarboxamide
The title compound was prepared as described in Example 1C, substituting 2-aminoethanol for 3-phenylpropan-1-amine and 2-({4-[(cyclopentylacetyl)amino]phenyl}carbamoyl)isoindoline-5-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.70 (s, 1H), 8.51-8.40 (m, 1H), 8.31 (s, 1H), 7.86-7.75 (m, 2H), 7.51-7.36 (m, 5H), 4.78 (bs, 4H), 4.71 (t, J=5.6 Hz, 1H), 3.58-3.46 (m, 2H), 3.39-3.28 (m, 2H), 2.32-2.13 (m, 3H), 1.82-1.68 (m, 2H), 1.67-1.44 (m, 4H), 1.27-1.10 (m, 2H); MS (ESI(+)) m/e 451 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 2-({4-[(cyclopentylacetyl)amino]phenyl}carbamoyl)isoindoline-5-carboxylic acid | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)O | C23H25N3O4
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N2-{4-[(cyclopentylacetyl)amino]phenyl}-N5-(2-hydroxyethyl)-1,3-dihydro-2H-isoindole-2,5-dicarboxamide | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)NCCO | C25H30N4O4
